US09447090B2
To a solution of 300 mg of tert-butyl[(1R,2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate and 5 ml of methanol was added 5 ml of a 4 M hydrogen chloride/dioxane solution, followed by stirring for 2 hours. The solvent was evaporated under reduced pressure to obtain 171 mg of (2S,3R)-3-amino-3-phenylpropane-1,2-diol hydrochloride.

reactant | tert-butyl[(1R,2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate | 300 mg | C(C)(C)(C)OC(N[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)O)C1=CC=CC=C1)=O | C20H35NO4Si
reactant | hydrogen chloride dioxane | 4 M | Cl.O1CCOCC1
solvent | methanol | 5 ml | CO | CH4O
product | (2S,3R)-3-amino-3-phenylpropane-1,2-diol hydrochloride | 171 mg | Cl.N[C@@H]([C@@H](CO)O)C1=CC=CC=C1 | InChI=1S/C9H13NO2.ClH/c10-9(8(12)6-11)7-4-2-1-3-5-7;/h1-5,8-9,11-12H,6,10H2;1H/t8-,9-;/m1./s1
